### PR TITLE
[Merged by Bors] - feat(RingTheory/IntegralClosure): add IsIntegral helpers for casts

### PR DESCRIPTION
**Pull request by mkaratarakis**
Add `IsIntegral.Cast` and `IsIntegral.Nat`, stating that integer and natural
literals are integral over `ℤ` in a field.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by tb65536** [comment]
Does this PR actually depend on #39872?

File: Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean [hunk 1]
```diff
@@ -202,6 +202,13 @@ theorem IsIntegral.smul {R} [CommSemiring R] [Algebra R B] [Algebra S B] [Algebr
   .of_mem_of_fg _ hx.fg_adjoin_singleton _ <| by
     rw [← algebraMap_smul S]; apply Subalgebra.smul_mem; exact Algebra.subset_adjoin rfl
 
+lemma IsIntegral.Cast {K : Type} [Field K] (a : ℤ) : IsIntegral ℤ (a : K) :=
+  map_isIntegral_int (algebraMap ℤ K) (Algebra.IsIntegral.isIntegral _)
```
Comment (tb65536) [inline Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean]: Maybe this should be called `isIntegral_intCast`? Also, it should be true beyond just fields.

File: Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean [hunk 2]
```diff
@@ -202,6 +202,13 @@ theorem IsIntegral.smul {R} [CommSemiring R] [Algebra R B] [Algebra S B] [Algebr
...
+
+lemma IsIntegral.Nat {K : Type} [Field K] (a : ℕ) : IsIntegral ℤ (a : K) := by
```
Comment (tb65536) [inline Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean]: Maybe this should be called `isIntegral_natCast`? It should also be true beyond fields.

File: Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean [hunk 3]
```diff
@@ -202,6 +202,13 @@ theorem IsIntegral.smul {R} [CommSemiring R] [Algebra R B] [Algebra S B] [Algebr
...
+  have : (a : K) = ((a : ℤ) : K) := by simp only [Int.cast_natCast]
+  rw [this]; apply IsIntegral.Cast
```
Comment (tb65536) [inline Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean]: Can you `rw` directly with `Int.cast_natCast`?

**Comment by mkaratarakis** [comment]
- awaiting-author

File: Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean [hunk 4]
```diff
@@ -202,6 +202,18 @@ theorem IsIntegral.smul {R} [CommSemiring R] [Algebra R B] [Algebra S B] [Algebr
   .of_mem_of_fg _ hx.fg_adjoin_singleton _ <| by
     rw [← algebraMap_smul S]; apply Subalgebra.smul_mem; exact Algebra.subset_adjoin rfl
 
+section
+variable {B : Type*} [Ring B] [Algebra ℤ B]
```
Comment (tb65536) [inline Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean]: Is `Algebra ℤ B` not automatic from `B` being a ring?

File: Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean [hunk 5]
```diff
@@ -202,6 +202,13 @@ theorem IsIntegral.smul {R} [CommSemiring R] [Algebra R B] [Algebra S B] [Algebr
   .of_mem_of_fg _ hx.fg_adjoin_singleton _ <| by
     rw [← algebraMap_smul S]; apply Subalgebra.smul_mem; exact Algebra.subset_adjoin rfl
 
+theorem isIntegral_intCast (a : ℤ) : IsIntegral ℤ (a : B) :=
+  isIntegral_algebraMap (R := ℤ) (A := B) (x := a)
```
Comment (tb65536) [inline Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean]: I would probably omit these.
```suggestion
  isIntegral_algebraMap
```

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer delegate

**Review by riccardobrasca — COMMENTED** [review]
Is "denominator" standard terminology? Anyway the PR description doesn't seem accurate, you are adding the helpers, but also a new file

File: Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean [hunk 6]
```diff
@@ -202,6 +202,21 @@ theorem IsIntegral.smul {R} [CommSemiring R] [Algebra R B] [Algebra S B] [Algebr
...
+theorem isIntegral_intCast (a : ℤ) : IsIntegral ℤ (a : B) :=
+  isIntegral_algebraMap
+
+theorem isIntegral_natCast (a : ℕ) : IsIntegral ℤ (a : B) := by
+  rw [← Int.cast_natCast]
+  exact isIntegral_intCast a
+
+namespace IsIntegral
+
+theorem Cast (a : ℤ) : IsIntegral ℤ (a : B) := isIntegral_intCast a
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean]: This is exactly the same as `isIntegral_intCast`, right? What is the point of adding it?

Comment (mkaratarakis) [reply Mathlib/RingTheory/IntegralClosure/Algebra/Basic.lean]: Yes, I removed them and deleted the random file that went through

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
